US05091432
Synthesis of 1-[2-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]hydrazino]2-oxoethyl]pyridinium chloride (AIT-0094)
0.300 g (0.9111 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, 4-nitrophenyl ester (AIT-0081) and 0.172 g (0.9166 mmol) of Girard's reagent P were placed into a 10 ml round bottom flask with 2 ml dimethylsulfoxide and a magnetic stirring bar. The solution was heated to 70° C. with stirring. As the solution began to warm up, the solids began to dissolve and the solution became progressively green in color. After about 30 minutes, the solution was completely homogeneous. The solution was allowed to react at 70° C. for four hours and was allowed to cool to room temperature. 10 ml acetonitrile was added and a white precipitate formed immediately. The solution was filtered and washed with acetonitrile and ether. The solid was allowed to dry but it absorbed H2O from the atmosphere. The hygroscopic effect could either be due to residual dimethylsulfoxide or the product itself.

reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, 4-nitrophenyl ester | 0.9111 mmol, 0.300 g | O=C1C=2N=CN(C2N=CN1)CCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C14H11N5O5
reactant | Girard's reagent P | 0.9166 mmol, 0.172 g | C1=CC=[N+](C=C1)CC(=O)NN.[Cl-]
reactant | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-[2-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]hydrazino]2-oxoethyl]pyridinium chloride | [Cl-].O=C1C=2N=CN(C2N=CN1)CCC(=O)NNC(C[N+]1=CC=CC=C1)=O | InChI=1S/C15H15N7O3.ClH/c23-11(19-20-12(24)8-21-5-2-1-3-6-21)4-7-22-10-18-13-14(22)16-9-17-15(13)25;/h1-3,5-6,9-10H,4,7-8H2,(H2-,16,17,19,20,23,24,25);1H
